* IMG: assets/circuit_images/AJDE.png
* Auto-generated from Falstad export
V1 n1 0 DC Ug
R1 n1 n5 R
OOP1 n2 0 n5 n6
R2 n2 n7 2*R
OOP2 n9 0 0 n7
R3 n9 n10 R
OOP3 out 0 0 n10
R4 out 0 R
C1 n7 n9 1/(R*Om)
R5 out n6 R
R6 n3 n2 R
R7 n5 n9 R
C2 n10 out 1/(R*Om)
.end
